US20010009911A1
Step 1: 3-(2,3-Dihydroindol-1-ylsulphonyl)-1,3-oxazolidin-2-one
7.1 ml of 2-bromoethanol in 50 ml of dichloromethane are added to a solution of 8.72 ml of chlorosulphonyl isocyanate in 40 ml of dichloromethane. The resulting solution is then added, at 0° C., to a solution of 11.23 ml of indoline and 15.46 ml of triethylamine in 200 ml of dichloromethane. After stirring for 24hours at ambient temperature, 10 N hydrochloric acid is added. The organic phase is then washed with hydrochloric acid and then with water, and is dried, filtered and concentrated, allowing the expected product to be obtained.

reactant | 2-bromoethanol | 7.1 ml | BrCCO | C2H5BrO
reactant | chlorosulphonyl isocyanate | 8.72 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | indoline | 11.23 ml | N1CCC2=CC=CC=C12 | C8H9N
reactant | hydrochloric acid | 10 N | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | triethylamine | 15.46 ml | C(C)N(CC)CC | C6H15N
product | 3-(2,3-Dihydroindol-1-ylsulphonyl)-1,3-oxazolidin-2-one | N1(CCC2=CC=CC=C12)S(=O)(=O)N1C(OCC1)=O | C11H12N2O4S
